US04122186
(2) Ethyl (3,4-dichloroanilino)-acetate
A solution of 27.5 g (0.125 mol) of 3,4-dichloroanilinoacetic acid, 190 ml of dichloroethane, 15 ml (0.2 mol) of ethanol and 1.5 ml of concentrated H2SO4 is heated for 4 hours under reflux. It is washed with water and with dilute sodium bicarbonate, dried and evaporated to dryness in vacuo. The ester is recrystallised from ethanol and is obtained in a yield of 78%. It melts at 103°-104° C.

reactant | 3,4-dichloroanilinoacetic acid | 0.125 mol, 27.5 g | ClC=1C=C(NCC(=O)O)C=CC1Cl | C8H7Cl2NO2
reactant | ethanol | 0.2 mol, 15 ml | C(C)O | C2H6O
reactant | H2SO4 | 1.5 ml | OS(=O)(=O)O | H2O4S
solvent | dichloroethane | 190 ml | ClC(C)Cl | C2H4Cl2
product | Ethyl (3,4-dichloroanilino)-acetate | yield of 78% | ClC=1C=C(NCC(=O)OCC)C=CC1Cl | C10H11Cl2NO2
